US09290485B2
b) tert-butyl (5-((1-((7-chloroquinolin-2-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-yl)carbamate
To a solution of tert-butyl (5-((1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-yl)carbamate (100 mg, 0.290 mmol) in acetone (2.5 ml) were added 2-(bromomethyl)-7-chloroquinoline (74.3 mg, 0.290 mmol) and K2CO3 (200 mg, 1.448 mmol). Reaction mixture was stirred for 5 h at 50° C. Reaction mixture was diluted with ethyl acetate and water. Phases were separated and organic layer was washed with brine, dried over sodium sulfate, filtered and evaporated to afford the title compound. HPLC (Method G) Rt=1.736 min, MS (Method V) [M+H]+=521.3.

reactant | tert-butyl (5-((1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-yl)carbamate | 0.290 mmol, 100 mg | N1N=CC(=C1)C(=O)NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C17H23N5O3
reactant | 2-(bromomethyl)-7-chloroquinoline | 0.290 mmol, 74.3 mg | BrCC1=NC2=CC(=CC=C2C=C1)Cl | C10H7BrClN
reactant | K2CO3 | 1.448 mmol, 200 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 2.5 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl (5-((1-((7-chloroquinolin-2-yl)methyl)-1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-yl)carbamate | ClC1=CC=C2C=CC(=NC2=C1)CN1N=CC(=C1)C(=O)NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C27H29ClN6O3
